US07314936B2
To a solution of 4-oxo-piperidine-1-carboxylic acid benzyl ester (0.50 g, 2.14 mmol, 1.0 eq.) in THF (20 mL) was added dibromodifluoromethane (0.90 mL, 4.5 eq.) at −30° C. followed by HMPA (1.75 mL, 4.5 eq.). The cooling bath was removed and the reaction mixture was swirled periodically. After 30 min, zinc dust (0.63 g, 4.5 eq.) and HMPA (80 μL 0.4 eq.) was added and the mixture was heated at reflux for 18 h. Upon cooling to room temperature, the residue was washed with diethyl ether several times. The combined ether washings were washed successively with saturated aqueous copper (II) sulphate, brine, dried over Na2SO4 and concentrated. The residue was purification by chromatography (20% EtOAc-hexanes) to afford 4-difluoromethylene-piperidine-1-carboxylic acid benzyl ester (0.32 g, 56%) as a colorless oil.

reactant | 4-oxo-piperidine-1-carboxylic acid benzyl ester | 2.14 mmol, 0.50 g, 1.0 eq. | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | dibromodifluoromethane | 0.90 mL, 4.5 eq. | BrC(F)(F)Br | CBr2F2
reactant | HMPA | 1.75 mL, 4.5 eq. | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | HMPA | 80 μL, 0.4 eq. | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.63 g, 4.5 eq. | [Zn] | Zn
product | 4-difluoromethylene-piperidine-1-carboxylic acid benzyl ester | 0.32 g, 56% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=C(F)F | C14H15F2NO2
